US07402598B2
(iv) 4-Hydroxy-7-({[6-(4-phenylbutoxy)hexyl]amino}acetyl)-1,3-benzothiazol-2(3H)-one
A solution of 7-({benzyl[6-(4-phenylbutoxy)hexyl]amino}acetyl)-4-hydroxy-1,3-benzothiazol-2(3H)-one (100 mg) in dry ethanol (10 ml) and acetic acid (0.5 ml) was added to 10% Pd/C catalyst (40 mg) and stirred under hydrogen for 20 h. The catalyst was collected by filtration through celite and the filtrate evaporated in vacuo. The residue was purified on SCX and then silica SPE cartridge, eluting with a stepped gradient of 1-10% methanol-dichloromethane mixtures, to give the title compound (9 mg). LCMS RT=2.81 min.

reactant | 7-({benzyl[6-(4-phenylbutoxy)hexyl]amino}acetyl)-4-hydroxy-1,3-benzothiazol-2(3H)-one | 100 mg | C(C1=CC=CC=C1)N(CCCCCCOCCCCC1=CC=CC=C1)CC(=O)C1=CC=C(C=2NC(SC21)=O)O | C32H38N2O4S
solvent | ethanol | 10 ml | C(C)O | C2H6O
solvent | acetic acid | 0.5 ml | C(C)(=O)O | C2H4O2
catalyst | Pd/C | 40 mg | [Pd] | Pd
product | 4-Hydroxy-7-({[6-(4-phenylbutoxy)hexyl]amino}acetyl)-1,3-benzothiazol-2(3H)-one | 9 mg | OC1=CC=C(C2=C1NC(S2)=O)C(CNCCCCCCOCCCCC2=CC=CC=C2)=O | C25H32N2O4S
